US07371872B2
Add t-butanol (35 g, 471 mmol) to a solution of potassium t-butoxide (1M in THF, 471 mL, 471 mmol) under nitrogen. Cool the reaction solution was cooled to 0-5° C. and add the toluene solution containing 1-(isocyanate)-1-(tert-butoxycarbonyl)cyclopent-3-ene over 60 minutes, maintaining the temperature at 0-10° C. Warm the reaction to 23° C., stir for 2 hours, and assay by GC for the disappearance of the isocyanate starting material. Add the reaction mixture to a mixture of deionized water (1.2 L) and MTBE (1.2 L) at 15° C. Stir the solution for 20 minutes and separate the layers. Wash the organic layer with a 20% brine solution (250 mL) and separate the layers. Transfer the organic layer concentrated via distillation, to approximately 250 mL. Add heptane (500 mL) and concentrate the solution to a total volume of 250 mL. Cool the resulting slurry solution to 0° C., stir for 2 hours, and filter. Wash the filter cake with cold heptane (2×100 mL) and vacuum dry to give 34.54 g (52% yield from 1-(carboxylic acid)-1-(tert-butoxycarbonyl)cyclopent-3-ene) of 1-(tert-butoxycarbonylamino)-1-(tert-butoxycarbonyl)cyclopent-3-ene as a white solid.

reactant | t-butanol | 471 mmol, 35 g | C(C)(C)(C)O | C4H10O
reactant | potassium t-butoxide | 471 mmol, 1M, 471 mL | CC(C)([O-])C.[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | isocyanate | [N-]=C=O
reactant | MTBE | 1.2 L | CC(C)(C)OC | C5H12O
solvent | water | 1.2 L | O | H2O
product | 1-(tert-butoxycarbonylamino)-1-(tert-butoxycarbonyl)cyclopent-3-ene | 34.54 g, 52% yield | C(C)(C)(C)OC(=O)NC1(CC=CC1)C(=O)OC(C)(C)C | C15H25NO4
